US04251528
A stirred mixture of 2-(3,4-dichlorobenzyl)-7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylic acid (1.9 g.) in thionyl chloride (10 ml.) containing dimethylformamide (0.1 ml.) was heated under reflux for 3 hours. The solution obtained was then evaporated. The residue was dissolved in dry toluene and the solution evaporated. This procedure was carried out three times to give 2-(3,4-dichlorobenzyl)-7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylic acid chloride in essentially quantitative yield as a solid, having a satisfactory IR spectrum.

reactant | 2-(3,4-dichlorobenzyl)-7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylic acid | 1.9 g | ClC=1C=C(CN2C(C3=CC(=CC=C3C(=N2)C(=O)O)OC)=O)C=CC1Cl | C17H12Cl2N2O4
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(3,4-dichlorobenzyl)-7-methoxy-1,2-dihydro-1-oxophthalazin-4-ylcarboxylic acid chloride | quantitative yield | ClC=1C=C(CN2C(C3=CC(=CC=C3C(=N2)C(=O)Cl)OC)=O)C=CC1Cl | C17H11Cl3N2O3
